US08071607B2
Compound 50A. N-(4-Pyrrol-1-yl-phenyl)-hydrazinecarboxylic acid tert-butyl ester
Copper iodide (18 mg, 0.05 eq, 0.09 mmol), 1,10-phenanthroline (67 mg, 0.2 eq, 0.37 mmol) and caesium carbonate (0.85 g, 1.4 eq, 2.6 mmol) were mixed in a RB flask, placed under vacuum and purged with N2 (g). 1-(4-iodo-phenyl)-1H-pyrrole (0.5 g, 1.0 eq, 1.86 mmol), hydrazine carboxylic acid tert-butyl ester (0.3 g, 1.2 eq, 2.23 mmol) and DMF (25 ml) were added to the mixture which was then heated to 80° C. with stirring under an inert atmosphere for 21 hours. The reaction mixture was allowed to cool and was then filtered through a silica pad, which was then washed with ethyl acetate. The filtrate was then concentrated to dryness in vacuo. The resultant residue was purified by column chromatography using heptane/ethyl acetate (3:1) as eluent to yield the title compound as an off white-solid (0.32 g, 1.16 mmol, 62%). LCMS: [M+H]+=274, 94% purity

reactant | 1,10-phenanthroline | 0.37 mmol, 67 mg, 0.2 eq | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | caesium carbonate | 2.6 mmol, 0.85 g, 1.4 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(4-iodo-phenyl)-1H-pyrrole | 1.86 mmol, 0.5 g, 1.0 eq | IC1=CC=C(C=C1)N1C=CC=C1 | C10H8IN
reactant | hydrazine carboxylic acid tert-butyl ester | 2.23 mmol, 0.3 g, 1.2 eq | C(C)(C)(C)OC(=O)NN | C5H12N2O2
catalyst | Copper iodide | 0.09 mmol, 18 mg, 0.05 eq | [Cu](I)I
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-(4-Pyrrol-1-yl-phenyl)-hydrazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N(N)C1=CC=C(C=C1)N1C=CC=C1 | C15H19N3O2
